US08455475B2
(4-Methylpiperazin-1-yl)(3-azaspiro[5.5]undecan-9-yl)methanone hydrochloride
Ethanol (3 ml) and acetyl chloride (0.24 ml, 3.43 mmol) were added to tert-butyl 9-(4-methylpiperazine-1-carbonyl)-3-azaspiro[5.5]undecane-3-carboxylate (0.26 g, 0.685 mmol) and the mixture was stirred at room temperature for 12 h. When the reaction was complete, the solvent was removed in vacuo. Yield: 0.22 g (101%)

reactant | acetyl chloride | 3.43 mmol, 0.24 ml | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 9-(4-methylpiperazine-1-carbonyl)-3-azaspiro[5.5]undecane-3-carboxylate | 0.685 mmol, 0.26 g | CN1CCN(CC1)C(=O)C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C21H37N3O3
solvent | Ethanol | 3 ml | C(C)O | C2H6O
product | (4-Methylpiperazin-1-yl)(3-azaspiro[5.5]undecan-9-yl)methanone hydrochloride | Cl.CN1CCN(CC1)C(=O)C1CCC2(CCNCC2)CC1 | InChI=1S/C16H29N3O.ClH/c1-18-10-12-19(13-11-18)15(20)14-2-4-16(5-3-14)6-8-17-9-7-16;/h14,17H,2-13H2,1H3;1H
